US06333434B1
62 g of fuming nitric acid were added dropwise to 100 g of 2,3-dichlorobenzotrichloride at −10 to +10° C. in the course of 10 minutes, followed by 62 g of 96% by weight sulphuric acid. The reaction mixture was initially stirred at 20 to 30° C. for 2 hours, then cooled down, discharged onto ice and extracted 3× with 100 ml of dichloromethane each time. The combined organic phases were washed with 100 ml of water, 3×100 ml of saturated aqueous sodium bicarbonate solution and 100 ml of aqueous sodium chloride solution, dried over magnesium sulphate and evaporated. The crude product (99 g, purity 100%, 84.4% of theory) was recrystallized from ethanol to obtain 68 g (=58.2% of theory) of 2,3-dichloro-5-nitro-benzotrichloride (mp. 97 to 99° C.), while the other isomers ended up in the residue.

reactant | nitric acid | 62 g | [N+](=O)(O)[O-] | HNO3
reactant | 2,3-dichlorobenzotrichloride | 100 g | ClC1=C(C=CC=C1Cl)C(Cl)(Cl)Cl | C7H3Cl5
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,3-dichloro-5-nitro-benzotrichloride | 68 g, 58.2% | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])C(Cl)(Cl)Cl | C7H2Cl5NO2
